US07211595B2
4-(hydroxy(1-methyl-1H-imidazol-5-yl)methyl)benzonitrile
A solution of 1-methyl-2-(triethylsilyl)-1H-imidazole (3.35 g, 17.08 mmol) in THF (50 mL) at −78° C. was treated dropwise with 2.5M tert-butyllithium in pentane (22.4 mL, 17.1 mmol), stirred for 30 minutes, treated dropwise with a solution of 4-cyanobenzaldehyde (2.04 g, 15.56 mmol) in THF (10 mL), and stirred for 1 hour. The mixture was quenched with methanol (4 mL), treated with 1N HCl (40 mL), warmed to room temperature, adjusted to pH 12 with 30% NaOH, and extracted with ethyl acetate. The combined extracts were washed with brine, dried (MgSO4), filtered, and concentrated. The concentrate was triturated with 4:1 hexanes/ethyl acetate to provide 2.95 g (89%) of the desired product. MS (DCI/NH3) m/z 214 (M+H)+; 1H NMR (CDCl3) δ 7.67 (d, 2H), 7.53 (d, 2H), 7.40 (s, 1H), 6.67 (s, 1H), 5.95 (s, 1H), 3.53 (s, 3H).

reactant | 1-methyl-2-(triethylsilyl)-1H-imidazole | 17.08 mmol, 3.35 g | CN1C(=NC=C1)[Si](CC)(CC)CC | C10H20N2Si
reactant | tert-butyllithium | 2.5M | C(C)(C)(C)[Li]
reactant | pentane | 17.1 mmol, 22.4 mL | CCCCC | C5H12
reactant | 4-cyanobenzaldehyde | 15.56 mmol, 2.04 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(hydroxy(1-methyl-1H-imidazol-5-yl)methyl)benzonitrile | 2.95 g, 89% | OC(C1=CC=C(C#N)C=C1)C1=CN=CN1C | C12H11N3O
